US07902226B2
7-[3-(R)-[1-(ethylamino)cyclopropyl]pyrrolidin-1-yl]-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
After adding 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(ethyl)amino]cyclopropyl]pyrrolidine (2.16 g, 8.40 mmol) and triethylamine (4 ml) to dried dimethyl sulfoxide (10 ml), 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.95 g, 7.00 mmol) was added thereto and heated under reflux in an oil bath of 100° C. for 51 hour under a nitrogen atmosphere. After concentrating the reaction solution under a reduced pressure, the residue was dissolved in chloroform (150 ml). After washing the organic layer with a 10% aqueous citric acid solution (100 ml) and saturated saline solution (100 ml), the organic layer was dried over anhydrous sodium sulfate. After filtering, the filtrate was concentrated under a reduced pressure, and after adding dropwise concentrated hydrochloric acid (10 ml) to the residue while cooling with ice, it was stirred at room temperature for 30 minutes. After adding 1 mol/l hydrochloric acid (20 ml) to the reaction solution and washing the yellow acidic aqueous solution with chloroform (100 ml×5), the pH was adjusted to 12.0 with an aqueous sodium hydroxide solution. After adjusting the pH of the basic aqueous solution to 7.4 with 1 mol/l hydrochloric acid, extraction with chloroform (150 ml×4) was performed. After drying over anhydrous sodium sulfate, the solvent was evapolated under a reduced pressure. The residue thus obtained was purified by recrystallization from ethanol and then dried under a reduced pressure. 1.61 g (55%) of the title compound was thereby obtained in the form of yellow crystals.

reactant | 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(ethyl)amino]cyclopropyl]pyrrolidine | 8.40 mmol, 2.16 g | C(C)(C)(C)OC(=O)N(CC)C1(CC1)[C@H]1CNCC1 | C14H26N2O2
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 7.00 mmol, 1.95 g | FC1=CC=C2C(C(=CN(C2=C1C)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H11F2NO3
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 7-[3-(R)-[1-(ethylamino)cyclopropyl]pyrrolidin-1-yl]-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.61 g, 55% | C(C)NC1(CC1)[C@H]1CN(CC1)C1=CC=C2C(C(=CN(C2=C1C)[C@H]1[C@H](C1)F)C(=O)O)=O | C23H28FN3O3
